US03954771
70 g. N-methyl-2H-3-isoquinolone sulfate are dissolved, under an atmosphere of nitrogen, in 900 ml. water. 75 g. sodium bicarbonate are added and the mixture is stirred with 500 ml. chloroform. By decantation, there is obtained a chloroform solution of N-methyl-2H-3-isoquinolone, which can be dried over anhydrous sodium sulfate and employed as such or concentrated for a further reaction.

reactant | N-methyl-2H-3-isoquinolone sulfate | S(=O)(=O)(O)O.CN1C=C2C=CC=CC2=CC1=O
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-2H-3-isoquinolone | CN1C=C2C=CC=CC2=CC1=O | C10H9NO
